US05171753
α-Phenyl-β-[(tetrahydro-2H-pyran-2-ylmethyl)amino]benzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mol) and 2-aminomethyltetrahydropyran (3.45 g, 0.030 mol) was heated in an oil bath at 140° C. for 6 hours. After standing at ambient temperature for 14 hours, the solidified reaction mixture was triturated with isooctane, and the tan solid collected by filtration to obtain 2.59 g (83% yield) of the product. The material was recrystallized from toluene-isooctane; mp 159°-163° C.

reactant | trans-stilbene oxide | 0.010 mol, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-aminomethyltetrahydropyran | 0.030 mol, 3.45 g | NCC1OCCCC1 | C6H13NO
product | α-Phenyl-β-[(tetrahydro-2H-pyran-2-ylmethyl)amino]benzeneethanol | 2.59 g, 83% yield | C1(=CC=CC=C1)C(C(C1=CC=CC=C1)NCC1OCCCC1)O | C20H25NO2
